US08809342B2
Diisopropyl azodicarboxylate (50 μL, 0.25 mmol) was added to a room temperature solution of 4,4,4-trifluoro-1-(4′-(trifluoromethyl)biphenyl-4-yl)butan-1-ol (84 mg, 0.24 mmol), methyl 6-(tert-butoxycarbonylamino)nicotinate (74 mg, 0.29 mmol), and triphenylphosphine (65 mg, 0.25 mmol) in 1.5 mL THF. The resulting solution was stirred overnight at room temperature. The solution was partitioned between dichloromethane and water. The organic layer was dried over MgSO4 and concentrated to give a colorless solid. Purification by silica gel chromatography provided methyl 6-(tert-butoxycarbonyl(4,4,4-trifluoro-1-(4′-(trifluoromethyl)biphenyl-4-yl)butyl)amino)nicotinate (30 mg, 21%) as a colorless solid. 1H NMR (400 MHz, CDCl3) δ 8.99-9.01 (m, 1H), 8.17-8.21 (m, 1H), 7.63-7.69 (m, 4H), 7.49-7.54 (m, 3H), 7.39-7.44 (m, 2H), 5.98-6.08 (m, 1H), 3.92 (s, 3H), 2.61-2.74 (m, 1H), 2.39-2.54 (m, 1H), 2.17-2.36 (m, 2H), 1.31 (s, 9H).

reactant | Diisopropyl azodicarboxylate | 0.25 mmol, 50 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 4,4,4-trifluoro-1-(4′-(trifluoromethyl)biphenyl-4-yl)butan-1-ol | 0.24 mmol, 84 mg | FC(CCC(O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)(F)F | C17H14F6O
reactant | methyl 6-(tert-butoxycarbonylamino)nicotinate | 0.29 mmol, 74 mg | C(C)(C)(C)OC(=O)NC1=NC=C(C(=O)OC)C=C1 | C12H16N2O4
reactant | triphenylphosphine | 0.25 mmol, 65 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | methyl 6-(tert-butoxycarbonyl(4,4,4-trifluoro-1-(4′-(trifluoromethyl)biphenyl-4-yl)butyl)amino)nicotinate | 30 mg, 21% | C(C)(C)(C)OC(=O)N(C1=NC=C(C(=O)OC)C=C1)C(CCC(F)(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C29H28F6N2O4
